US07109364B2
1. Synthesis of 15-methyl-2-hexadecenoic Acid
13-methyl-tetradecanaldehyde (56.5 g, 0.25 mole), malonic acid (26.5 g, 0.51 mole), and pyridine (30.8 ml, 0.374 mole) were added to a flask and refluxed with heating for 3 hours. After cooling down 30% sulfuic acid was added and the reaction mixture was stirred for 3 hours under ice bath and then extracted by diethyl ether. Diethyl ether was removed by evaporation and product was subject to vacuum fractional distillation and 170–172° C./1.0 mmHg fraction was collected as 15-methyl-2-hexadecenoic acid (50.9 g, yield rate 76%).

reactant | 13-methyl-tetradecanaldehyde | 0.25 mole, 56.5 g | CC(CCCCCCCCCCCC=O)C | C15H30O
reactant | malonic acid | 0.51 mole, 26.5 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | pyridine | 0.374 mole, 30.8 ml | N1=CC=CC=C1 | C5H5N
product | 15-methyl-2-hexadecenoic Acid | CC(CCCCCCCCCCCC=CC(=O)O)C | C17H32O2
